US07335673B2
Preparation of 3-(4-bromophenyl)-2-{3-[(2,2-dimethylpropionyl)isobutylamino]-4-methoxyphenyl} propionic acid
Thus obtained 3-(4-bromophenyl)-2-{3-[(2,2-dimethylpropionyl)isobutylamino]-4-methoxyphenyl} propionic acid ethyl ester (104 mg, 0.2 mmol) was dissolved in a mixed solvent of methanol (3 mL) and tetrahydrofuran (3 mL), and the mixture was added with a 2 mol/L aqueous sodium hydroxide solution (3 mL, 6 mmol). The solution was evaporated under reduced pressure so as to remove the solvent, the resultant residue was added with water to be dissolved, and the solution was washed with diethyl ether. The separated aqueous phase was added with a 1 mol/L hydrochloric acid so as to adjust pH of the solution as low as 4 or below. The solution was then extracted with ethyl acetate, the extract was dried over anhydrous sodium sulfate, evaporated under reduced pressure so as to remove the solvent, to thereby obtain 3-(4-bromophenyl)-2-{3-[(2,2-dimethylpropionyl)isobutyl amino]-4-methoxyphenyl}propionic acid (yield: 89 mg, yield ratio: 90%) as a white solid.

reactant | 3-(4-bromophenyl)-2-{3-[(2,2-dimethylpropionyl)isobutylamino]-4-methoxyphenyl} propionic acid ethyl ester | 0.2 mmol, 104 mg | C(C)OC(C(CC1=CC=C(C=C1)Br)C1=CC(=C(C=C1)OC)N(CC(C)C)C(C(C)(C)C)=O)=O | C27H36BrNO4
reactant | sodium hydroxide | 6 mmol, 2 mol/L, 3 mL | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(4-bromophenyl)-2-{3-[(2,2-dimethylpropionyl)isobutylamino]-4-methoxyphenyl} propionic acid | BrC1=CC=C(C=C1)CC(C(=O)O)C1=CC(=C(C=C1)OC)N(CC(C)C)C(C(C)(C)C)=O | C25H32BrNO4
